US08247436B2
3-Amino-N-(2-amino-3,3,3-trifluoro-2-methylpropyl)-6-methoxy-5-(trifluoromethyl)picolinamide
A mixture comprising 3-amino-6-methoxy-N-(3,3,3-trifluoro-2-(4-methoxybenzylamino)-2-methylpropyl)-5-(trifluoromethyl)picolinamide (Ex. 18) (0.9 g, 1.873 mmo) in TFA (50 ml) was heated to 50° C. for 2 h. After cooling to RT, the pH was adjusted to pH 12 using 2M NaOH. The product was extracted with DCM and the organic extract was washed with water, dried over MgSO4 and concentrated in vacuo. The crude product was loaded onto a SCX-2 cartridge eluting with MeOH followed by 2M NH3 in MeOH. The methanolic ammonia fractions were concentrated in vacuo and dried under vacuum to afford the title compound. 1H NMR (400 MHz, DMSO-d6) δ 8.35 (1H, m), 7.67 (1H, s), 6.67 (2H, s), 3.93 (3H, s), 3.58 (1H, m), 3.40 (1H, m), 2.22 (2H, s), 1.14 (3H, s).

reactant | 3-amino-6-methoxy-N-(3,3,3-trifluoro-2-(4-methoxybenzylamino)-2-methylpropyl)-5-(trifluoromethyl)picolinamide | 0.9 g | NC=1C(=NC(=C(C1)C(F)(F)F)OC)C(=O)NCC(C(F)(F)F)(C)NCC1=CC=C(C=C1)OC | C20H22F6N4O3
reactant | NaOH | 2M | [OH-].[Na+]
solvent | TFA | 50 ml | C(=O)(C(F)(F)F)O | C2HF3O2
product | 3-Amino-N-(2-amino-3,3,3-trifluoro-2-methylpropyl)-6-methoxy-5-(trifluoromethyl)picolinamide | NC=1C(=NC(=C(C1)C(F)(F)F)OC)C(=O)NCC(C(F)(F)F)(C)N | C12H14F6N4O2
